US08012974B2
Racemic 3-methyl-tetrahydro-pyran-4-one (1 g, 8.761 mmol) was dissolved in DCM. Benzylamine (1.5 mL, 13.75 mmol) and sodium triacetoxyborohydride (95%, 3.3 g, 14.89 mmol) were added and the resulting suspension was stirred at RT overnight. The reaction mixture was washed with saturated aqueous NaHCO3. The aqueous layer was extracted with DCM. The combined organic layers were washed with brine, dried (Na2SO4), filtered and evaporated. The remaining yellow liquid was purified by SiO2 chromatography (120 g SiO2, DCM/(DCM:MeOH:NH4OH 60:10:1) 92% DCM) to give 1.8 g of racemic cis benzyl-(3-methyl-tetrahydro-pyran-4-yl)-amine as a light yellow oil (>95% yield).

reactant | Racemic 3-methyl-tetrahydro-pyran-4-one | 8.761 mmol, 1 g | CC1COCCC1=O | C6H10O2
reactant | Benzylamine | 13.75 mmol, 1.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 14.89 mmol, 3.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | racemic cis benzyl-(3-methyl-tetrahydro-pyran-4-yl)-amine | 1.8 g, >95% yield | C(C1=CC=CC=C1)N[C@@H]1[C@@H](COCC1)C | C13H19NO
